US09029544B2
(R)—((S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(5-(trifluoromethyl)pyridin-2-yl)methanol
1.23 ml of a 2.5 M solution of n-butyllithium in toluene are added dropwise to a solution of 695 mg 2-bromo-5-trifluoromethylpyridine in 10 ml toluene at −80° C. The mixture is stirred for 1 hour and then a solution of 600 mg (S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde in 1 ml toluene is added dropwise. After stirring the mixture for 1 hour at −80° C. the reaction is quenched by addition of a saturated aqueous ammonium chloride solution. The phases are separated and the aqueous phase is extracted for three times with ethylacetate. The combined organic phases are dried with magnesium sulphate and the solvents are evaporated in vacuo. The residue is chromatographed on silica gel (pentane/diethylether 100:0 to 70:30).

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-bromo-5-trifluoromethylpyridine | 695 mg | BrC1=NC=C(C=C1)C(F)(F)F | C6H3BrF3N
reactant | (S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde | 600 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)C=O)I | C21H34INO2Si
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | (R)—((S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(5-(trifluoromethyl)pyridin-2-yl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)[C@@H](O)C1=NC=C(C=C1)C(F)(F)F)I | C27H38F3IN2O2Si
